US07589081B2
Synthesis of N-phenyl-2-(di-1-adamantyl-phosphino)pyrrole
1.6 ml of TMEDA (15 mmol.) are added to a suspension of 1.43 g (10 mmol.) of N-phenylpyrrole in 30 ml of hexane. 6.25 ml of 1.6 molar n-butyllithium solution (10 mmol.) are added at room temperature. The mixture is then heated for 2.5 hours at reflux temperature (solution 1). In another flask, 3.36 g (10 mmol.) of di-1-adamantylchlorophosphane are mixed with 40 ml of hexane and heated to 76° C. (solution 2). The boiling solution 1 is then slowly transferred into solution 2, which is at 76° C., by means of a cannula. The mixture is then boiled for a further 2 hours at reflux, the solution is cooled, and 20 ml of water are added thereto. The organic phase is filtered off over magnesium sulfate. The solution is concentrated in vacuo; 15 ml of toluene are added thereto, and the mixture is heated to 60° C. and then cooled. After one day at room temperature, the product is filtered off. Yield: 3.3 g (75%).

reactant | TMEDA | 15 mmol, 1.6 ml | CN(C)CCN(C)C | C6H16N2
reactant | N-phenylpyrrole | 10 mmol, 1.43 g | C1(=CC=CC=C1)N1C=CC=C1 | C10H9N
reactant | n-butyllithium | 10 mmol, 1.6 molar, 6.25 ml | C(CCC)[Li]
reactant | di-1-adamantylchlorophosphane | 10 mmol, 3.36 g | C12(CC3CC(CC(C1)C3)C2)P(Cl)C23CC1CC(CC(C2)C1)C3 | C20H30ClP
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | hexane | 40 ml | CCCCCC | C6H14
solvent | water | 20 ml | O | H2O
product | N-phenyl-2-(di-1-adamantyl-phosphino)pyrrole | C1(=CC=CC=C1)N1C(=CC=C1)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C30H38NP
